### PR TITLE
[Merged by Bors] - refactor(LinearAlgebra/TensorProduct): split large file

### PR DESCRIPTION
**Pull request by loefflerd**
Split > 1500-line file `Mathlib/LinearAlgebra/TensorProduct/Basic.lean` into 3 more manageable chunks:

- `Defs.lean`: definition of `M ⊗ N` as a quotient of `FreeAddMonoid (M × N)` (500 lines)
- `Basic.lean`: universal property of `M ⊗ N`, lifting bilinear maps `M → N → P` to linear maps `M ⊗ N → P` (380 lines)
- `Map.lean`: linear maps `M ⊗ N → M' ⊗ N'` induced by maps `M → M'` and `N → N'` (and one-sided versions of that) (750 lines)

---
This leads to a (small) simplification of the import hierarchy because some downstream files – regrettably not many, but some – only need material from `Defs` and `Basic` but not the ancillary theory developed in `Map`. (There is no downstream file which only needs `Defs`, which corresponds to a fact I always try to drum into my students: that the essence of the tensor product lies in its universal property, and the actual construction of a specific representative of the universal object is tedious and uninteresting.)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by eric-wieser** [comment]
Could you summarize what the boundaries on the new splits are in the description? What the main things that moved to each file?

File: Mathlib/LinearAlgebra/TensorProduct/Basic.lean [hunk 1]
```diff
@@ -5,43 +5,23 @@ Authors: Kenny Lau, Mario Carneiro
...
 /-!
-# Tensor product of modules over commutative semirings.
-
-This file constructs the tensor product of modules over commutative semirings. Given a semiring `R`
-and modules over it `M` and `N`, the standard construction of the tensor product is
-`TensorProduct R M N`. It is also a module over `R`.
-
-It comes with a canonical bilinear map
-`TensorProduct.mk R M N : M →ₗ[R] N →ₗ[R] TensorProduct R M N`.
+# Universal property of the tensor product
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/Basic.lean:11]: This split seems somewhat artificial to me, especially since we have `liftAddHom`, which is also "the" universal property, in `Defs`. If we move `def lift` and `lift_tmul` to `Defs` as well, is there enough of value left in this file?

Comment (loefflerd) [reply Mathlib/LinearAlgebra/TensorProduct/Basic.lean:11]: If we move `lift` and `lift_tmul` and the API around them to `Defs` as well, then there is not a lot left in `Basic`, and we are back in the situation of having a painfully over-long file. I would much rather move `liftAddHom` the other way, out of `Defs` and into `Basic`; this is consistent with the logic of the split (such as it is!), I had just overlooked `liftAddHom` in implementing it. So thanks for flagging that!

**Comment by eric-wieser** [comment]
> There is no downstream file which only needs `Defs`, which corresponds to a fact I always try to drum into my students: that the essence of the tensor product lies in its universal property, and the actual construction of a specific representative of the universal object is tedious and uninteresting.)

This is what I was getting at in suggesting that Defs and Basic should perhaps be one file; to me the universal property should come as early as possible! I'll have another look over this tomorrow.

File: Mathlib/LinearAlgebra/TensorProduct/Defs.lean [hunk 2]
```diff
@@ -0,0 +1,476 @@
...
+  by_cases h : i = j <;> aesop
+
+section
+
+theorem sum_tmul {α : Type*} (s : Finset α) (m : α → M) (n : N) :
+    (∑ a ∈ s, m a) ⊗ₜ[R] n = ∑ a ∈ s, m a ⊗ₜ[R] n := by
+  classical
+    induction s using Finset.induction with
+    | empty => simp
+    | insert _ _ has ih => simp [Finset.sum_insert has, add_tmul, ih]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/TensorProduct/Defs.lean:432]: I know you copied this from before. But why is this indented after `classical`? Same thing right below it.
Looks weird to me.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/TensorProduct/Defs.lean:432]: `classical` is a block tactic, just like `set_option ... in`; so this indent reflects the true structure of the proof.

It's legal to write
```lean
tac_1
classical
  tac_2
  tac_3
tac_4
```
